### PR TITLE
feat: EM Potential from E and B field

### PR DESCRIPTION
**Pull request by jstoobysmith**
The construction of an EM potential from an E and B field. The proofs that the potential gives back the corresponding E and B field.

Needed to build up API a bit for this to work.

### CODE REVIEW

**Review by wock9000 — APPROVED** [review]
Tested locally — full build passes (8,771 jobs), sorry_lint clean, runPhyslibLinters clean, codespell clean on all new files.

Checked the mathematical structure: `ElectromagneticPotential` as a function from spacetime to contravariant Lorentz vectors, decomposition into scalar and vector potentials (`ofPotentials_eq_add`), static potential specialization, Lorentz group action with `MulAction` instance, and differentiability of components. The E and B field constructions in `ElectricField.lean` and `MagneticField.lean` look correct — E from time derivative of A and gradient of φ, B from curl of A.

The `ParametricIntegration.lean` helper for differentiating under the integral sign is a useful utility.

Module documentation is thorough with clear overview, key results, and TODO items.

File: Physlib/Electromagnetism/Kinematics/EMPotential.lean [hunk 1]
```diff
@@ -186,21 +186,16 @@ lemma ofStaticPotentials_eq_ofPotentials {d} (c : SpeedOfLight) (ϕ : Space d 
...
-/-- The electromagnetic potential from a static electric and a static magnetic field.
-  There is no canonical choice here, so this depends on choice. -/
-noncomputable def ofStaticElectricMagneticField (c : SpeedOfLight)
-    (E : Space 3 → EuclideanSpace ℝ (Fin 3))
-    (B : Space 3 → EuclideanSpace ℝ (Fin 3))
-    (hE : Differentiable ℝ E) (hB : ContDiff ℝ 1 B)
-    (E_curl : Space.curl E = 0) (B_div : Space.div B = 0) :
+open MeasureTheory Matrix Space InnerProductSpace Time in
+/-- The electromagnetic potential from an electric and a magnetic field. -/
+noncomputable def ofElectricMagneticField (c : SpeedOfLight)
```
Comment (zhikaip) [inline Physlib/Electromagnetism/Kinematics/EMPotential.lean]: just a comment here, I understand that this is constructing from separate `E` and `B`, just wondering is `ElectromagneticField` better here and throughout the file to avoid names like `ofElectricMagneticField_magneticField ` which is somewhat confusing, but I can see where the current name is coming from so either is fine

File: Physlib/Electromagnetism/Kinematics/EMPotential.lean [hunk 2]
```diff
@@ -186,21 +186,16 @@ lemma ofStaticPotentials_eq_ofPotentials {d} (c : SpeedOfLight) (ϕ : Space d 
...
-  have A : Space 3 → EuclideanSpace ℝ (Fin 3) :=
-    Classical.choose (Space.exists_curl_of_div_zero B hB B_div)
-  ofStaticPotentials c φ A
-
-TODO "Add a constructor of the electromagnetic potential from non-static electric and
-  magnetic fields."
+  let A := fun t (x : Space) => - ∫ u in 0..(1 : ℝ), (u • basis.repr x) ⨯ₑ₃ B t (u • x) ∂(volume)
+  let φ := fun t (x : Space) =>
+    - ∫ u in (0 : ℝ)..1, ⟪E t (u • x) + ∂ₜ (A · (u • x)) t, basis.repr x⟫_ℝ ∂(volume)
+  ofPotentials c φ A
```
Comment (zhikaip) [inline Physlib/Electromagnetism/Kinematics/EMPotential.lean:198]: Apparently this specific construction is known as `Poincare Gauge`, it's probably the natural one to construct given E and B, but maybe worth pointing out in the docstring that this is choosing a gauge.

see e.g. https://kirkmcd.princeton.edu/examples/gauge.pdf

File: Physlib/Electromagnetism/Kinematics/MagneticField.lean [hunk 3]
```diff
@@ -6,6 +6,7 @@ Authors: Joseph Tooby-Smith
 module
 
 public import Physlib.Electromagnetism.Kinematics.ElectricField
+import all Physlib.SpaceAndTime.Space.Derivatives.Curl
```
Comment (zhikaip) [inline Physlib/Electromagnetism/Kinematics/MagneticField.lean]: is `import all` necessary? does this indicate some lemmas shouldn't be private or they're in the wrong file?

File: Physlib/Electromagnetism/Kinematics/ElectricField.lean [hunk 4]
```diff
@@ -75,6 +75,70 @@ lemma electricField_eq {c : SpeedOfLight} (A : ElectromagneticPotential d) :
...
+  ext1 t
+  ext1 x
+  suffices h : E t x + ∂ₜ (fun t => (ofElectricMagneticField c E B).vectorPotential c t x) t =
+      - ∇ ((ofElectricMagneticField c E B).scalarPotential c t) x by
+    simp only [electricField]
+    grind
+  convert congrFun (eq_grad_integral_of_curl_zero (fun x => E t x +
+      ∂ₜ (fun t => (ofElectricMagneticField c E B).vectorPotential c t x) t) ?_ ?_) x
+  · simp [ofElectricMagneticField_scalarPotential]
+    erw [grad_neg]
```
Comment (zhikaip) [inline Physlib/Electromagnetism/Kinematics/ElectricField.lean]: does tagging `grad_neg` with `@[to_fun]` work? same for all other `erw`s

**Review by zhikaip — COMMENTED** [review]
left some comments

File: Physlib/Electromagnetism/Kinematics/EMPotential.lean (hunk 2 above)
Comment (jstoobysmith) [reply Physlib/Electromagnetism/Kinematics/EMPotential.lean:198]: Done

File: Physlib/Electromagnetism/Kinematics/MagneticField.lean (hunk 3 above)
Comment (jstoobysmith) [reply Physlib/Electromagnetism/Kinematics/MagneticField.lean]: Fixed - changed the proof.

File: Physlib/Electromagnetism/Kinematics/ElectricField.lean (hunk 4 above)
Comment (jstoobysmith) [reply Physlib/Electromagnetism/Kinematics/ElectricField.lean]: Nice - didn't know about this. Fixed

File: Physlib/Electromagnetism/Kinematics/EMPotential.lean [hunk 5]
```diff
@@ -186,24 +186,21 @@ lemma ofStaticPotentials_eq_ofPotentials {d} (c : SpeedOfLight) (ϕ : Space d 
...
 
-TODO "Prove differentiability conditions with respect to the constructors of
-  the electromagnetic potential."
+TODO "The scalar potential of `ofElectromagneticField` can be defined as
```
Comment (zhikaip) [inline Physlib/Electromagnetism/Kinematics/EMPotential.lean]: Sorry I don't quite get what this refers to, is it not already in this form? Is it that removing the time derivative actually makes it more difficult or something else?

Comment (jstoobysmith) [reply Physlib/Electromagnetism/Kinematics/EMPotential.lean]: Yeah - it makes one of the proofs more difficult. I'll see if I've got time this afternoon to try and do this within this PR, and can then eliminate this TODO item.

Comment (jstoobysmith) [reply Physlib/Electromagnetism/Kinematics/EMPotential.lean]: Done this - now the definition matches the notes you gave above.

File: Physlib/Electromagnetism/Kinematics/VectorPotential.lean [hunk 6]
```diff
@@ -146,6 +197,39 @@ lemma contDiff_vectorPotential_ofElectromagneticField {n : ℕ} (c : SpeedOfLigh
     simp [ofElectromagneticField_vectorPotential, A]
   fun_prop
 
+open InnerProductSpace
+lemma vectorPotential_inner_radial_eq_zero_ofElectromagneticField
```
Comment (zhikaip) [inline Physlib/Electromagnetism/Kinematics/VectorPotential.lean:201]: I'm somewhat skeptical that this should be placed here, this is only a property of this specific construction (gauge). I would think VectorPotential should contain statements that are true of all VectorPotentials, but maybe it's fine for now and we can reorganise after we have more gauge stuff.

**Review by zhikaip — APPROVED** [review]
Thanks for the changes. I think some of the stuff is not generally true and should be moved into its own folder, but we can restructure later.

(btw Kirk M. McDonald's notes reference above seems like a good resource, maybe in the future we can formalise some of the content there.)

File: Physlib/Electromagnetism/Kinematics/VectorPotential.lean (hunk 6 above)
Comment (jstoobysmith) [reply Physlib/Electromagnetism/Kinematics/VectorPotential.lean:201]: Yeah sounds like a good plan
